US07112340B2
1% nabumetone
A weighed quantity of the drug material and a volume of a solution containing 2.2% Poloxamer 188, 0.1% sodium deoxycholate, and 2.2% glycerin adjusted to pH 8.7 were combined and mixed under high shear to form a pre-suspension. The pre-suspension was homogenized for 20 discrete passes at a pressure of 25,000 psi.

reactant | sodium deoxycholate | C[C@H](CCC(=O)[O-])[C@H]1CC[C@@H]2[C@@]1([C@H](C[C@H]3[C@]2(CC[C@H]4[C@@]3(CC[C@H](C4)O)C)C)O)C.[Na+]
reactant | glycerin | OCC(O)CO | C3H8O3
product | nabumetone | CC(=O)CCC=1C=CC=2C=C(C=CC2C1)OC | C15H16O2
